US09062015B2
4-Oxoazepane-1-carboxylic acid tert-butyl ester
1.04 g (6.98 mmol) of azepan-4-one hydrochloride is added to a solution of 1.63 g (15.35 mmol) of sodium carbonate in 10 ml of water. A solution of 1.68 g (7.68 mmol) of di-tert-butyl dicarbonate in 10 ml of THF is slowly added dropwise with vigorous stirring. The reaction mixture is subsequently stirred further at room temperature overnight, evaporated to give an aqueous residue and extracted 3 times with EA. The organic phase is dried over sodium sulfate and evaporated to dryness.

reactant | azepan-4-one hydrochloride | 6.98 mmol, 1.04 g | Cl.N1CCC(CCC1)=O
reactant | sodium carbonate | 15.35 mmol, 1.63 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 7.68 mmol, 1.68 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 10 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-Oxoazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CCC1)=O | C11H19NO3
